US08350044B2
Preparation of 3-(4-Chloro-thiazole-2-yl)pyridine
To a suspension of pyridin-3-ylboronic acid (3.87 g, 31.5 mmol) in toluene (120 mL) was added 2,4-dichlorothiazole (4.62 g, 30 mmol) followed by ethanol (60 mL) and a 2.0 M solution of K2CO3 (30.0 mL, 60.0 mmol). The solution was degassed by applying vacuum and then purging with nitrogen (3 times). To the reaction mixture was added tetrakis(triphenylphosphine)palladium (0) (1.733 g, 1.500 mmol) and the flask was heated at 95° C. under nitrogen for 16 hours. The aqueous layer was removed and the organic layer was concentrated. The crude product was purified via silica gel chromatography (0-100% ethyl acetate/hexanes) to afford the title compound as a brown solid (4.6 g, 74%): mp 84-86° C.; IR (KBr) 3092 cm−1; 1H NMR (400 MHz, CDCl3) δ 9.16-9.13 (m, 1H), 8.69 (dd, J=4.8, 1.6 Hz, 1H), 8.23 (ddd, J=8.0, 2.2, 1.7 Hz, 1H), 7.40 (ddd, J=8.0, 4.8, 0.8 Hz, 1H), 7.16 (s, 1H).

reactant | pyridin-3-ylboronic acid | 31.5 mmol, 3.87 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 2,4-dichlorothiazole | 30 mmol, 4.62 g | ClC=1SC=C(N1)Cl | C3HCl2NS
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | K2CO3 | 60.0 mmol, 30.0 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 1.500 mmol, 1.733 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-Chloro-thiazole-2-yl)pyridine | 4.6 g, 74% | ClC=1N=C(SC1)C=1C=NC=CC1 | C8H5ClN2S
